US06831081B2
N-(4-Chlorobenzyl)-7-propyl-2-(hydroxymethyl)-4-oxo-4,7-dihydrothieno[2,3-b]-pyridine-5-carboxamide.
Potassium carbonate (0.91 g) and 1-iodopropane (0.64 mL) are added to a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide (2.0 g, prepared as described in U.S. Pat. No. 6,239,142) in anhydrous DMF (60 mL). The reaction mixture is stirred at room temperature for 4 h. The mixture is diluted with water (150 mL) and filtered. The resulting white powder is washed with water (15 mL) followed by diethyl ether (15 mL) and dried in a vacuum oven to afford 1.73 g of the title compound as a white solid Physical characteristics. Mp 174-175° C. 1H NMR (300 MHz, DMSO-d6) δ 10.62, 8.72, 7.38, 7.29, 5.80, 4.69, 4.55, 4.27, 1.87, 0.89; Anal. Found: C, 58.20; H, 4.96; N. 7.13; Cl, 8.98; S, 8.16.

reactant | Potassium carbonate | 0.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 0.64 mL | ICCC | C3H7I
reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CO)O)C=C1 | C16H13ClN2O3S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | N-(4-Chlorobenzyl)-7-propyl-2-(hydroxymethyl)-4-oxo-4,7-dihydrothieno[2,3-b]-pyridine-5-carboxamide | 1.73 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCC)SC(=C3)CO)=O)C=C1 | C19H19ClN2O3S
